US05834463
(3aR*,10aS*)-9-Benzyl-1,2,3,3a,4,9,10,10a-octahydrobenzo[b]cyclopenta[e][1,4]diazepine hydrochloride
In ethanol was dissolved (3aR*,10aS*)-9-benzyl-1,2,3,3a,4,9,10,10a-octahydrobenzo[b]cyclopenta-[e][1,4]diazepine produced in Working Example 42. To the solution was added a 2.43N HCl-ethanol solution. This solution was concentrated under reduced pressure, and the concentrate was crystallized from ethanol to give the titled compound, m.p. 177°-179° C.

reactant | HCl ethanol | 2.43N | Cl.C(C)O
reactant | (3aR*,10aS*)-9-benzyl-1,2,3,3a,4,9,10,10a-octahydrobenzo[b]cyclopenta-[e][1,4]diazepine | C(C1=CC=CC=C1)N1C2=C(N[C@H]3[C@H](C1)CCC3)C=CC=C2 | C19H22N2
solvent | ethanol | C(C)O | C2H6O
product | (3aR*,10aS*)-9-Benzyl-1,2,3,3a,4,9,10,10a-octahydrobenzo[b]cyclopenta[e][1,4]diazepine hydrochloride | Cl.C(C1=CC=CC=C1)N1C2=C(N[C@H]3[C@H](C1)CCC3)C=CC=C2 | InChI=1S/C19H22N2.ClH/c1-2-7-15(8-3-1)13-21-14-16-9-6-11-17(16)20-18-10-4-5-12-19(18)21;/h1-5,7-8,10,12,16-17,20H,6,9,11,13-14H2;1H/t16-,17+;/m0./s1
